US06962923B2
N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-1-methyl-1H-imidazole-4-sulfonamide
1-Methyl-1H-imidazole-4-sulfonyl chloride (45 mg) was carefully added at room temperature under an atmosphere of nitrogen to a solution of 4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-ylamine (Preparation 48) (50 mg) and dimethylaminopyridine (16 mg) in anhydrous pyridine (2.4 ml). The reaction was stirred for two days, then the mixture was concentrated under reduced pressure and a saturated solution of ammonium chloride (6 ml), ethyl acetate (6 ml) and brine (6 ml) were sequentially added. The aqueous phase was extracted with ethyl acetate (2×8 ml) and the combined organic phases were washed with brine (10 ml), dried over sodium sulfate and concentrated under reduced pressure. The black residue was purified by preparative TLC (silica) eluted with dichloromethane:methanol (95:5) yielding a mixture of title compound and N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-1-methyl-N-[(1-methyl-1H-imidazol-4-yl)sulfonyl)]-1H-imidazole-4-sulfonamide. The title compound was purified by HPLC (5.4 mg).

reactant | 1-Methyl-1H-imidazole-4-sulfonyl chloride | 45 mg | CN1C=NC(=C1)S(=O)(=O)Cl | C4H5ClN2O2S
reactant | 4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-ylamine | 50 mg | O1COC2=C1C=CC(=C2)C=2C(=NN(C2N)C)OCCOC2=NC=C(C=N2)Cl | C17H16ClN5O4
reactant | dimethylaminopyridine | 16 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 1H-imidazole-4-sulfonamide | N1C=NC(=C1)S(=O)(=O)N | C3H5N3O2S
solvent | pyridine | 2.4 ml | N1=CC=CC=C1 | C5H5N
product | N-(4-(1,3-benzodioxol-5-yl)-3-{2-[(5-chloro-2-pyrimidinyl)oxy]ethoxy}-1-methyl-1H-pyrazol-5-yl)-1-methyl-1H-imidazole-4-sulfonamide | O1COC2=C1C=CC(=C2)C=2C(=NN(C2NS(=O)(=O)C=2N=CN(C2)C)C)OCCOC2=NC=C(C=N2)Cl | C21H20ClN7O6S
